US07625908B2
(2R)-1-[allyl(methyl)amino]propan-2-ol was reacted with N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-fluoroquinazolin-4-amine using an analogous procedure to that described in Example 1 for the preparation of N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(methylamino)ethoxy]quinazolin-4-amine, to give 5-{(1R)-2-[allyl(methyl)amino]-1-methylethoxy}-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine in 53% yield; NMR spectrum (DMSO-d6) 1.45 (d, 3H), 2.17 (s, 3H), 2.92-3.07 (m, 2H), 4.93 (m, 1H), 5.00 (d, 1H), 5.10 (d, 1H), 5.30 (s, 2H), 5.64 (m, 1H), 7.20-7.40 (m, 4H), 7.58 (m, 2H), 7.71 (dd, 1H), 7.85 (dd, 1H), 7.98 (m, 1H), 8.47 (s, 1H), 8.58 (d, 1H), 10.32 (bs, 1H).

reactant | (2R)-1-[allyl(methyl)amino]propan-2-ol | C(C=C)N(C[C@@H](C)O)C | C7H15NO
reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-fluoroquinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)F | C20H14ClFN4O
reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(methylamino)ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC | C23H22ClN5O2
product | 5-{(1R)-2-[allyl(methyl)amino]-1-methylethoxy}-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine | 53% yield | C(C=C)N(C[C@H](OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)C)C | C27H28ClN5O2
